US04012377
Titanous chloride solution (15% w/v, 380 ml.) was added during 25 min. to a stirred solution of 3-o-nitrostyryl-1,2,4-oxadiazole (10.85 g.) in acetone (1 litre). After 30 min. more, the acetone was removed, and solid sodium hyrdogen carbonate was added to the stirred solution until the pH was 6-7. The mixture was extracted thoroughly with ethyl acetate solution was washed with water, then dried (MgSO4) and evaporated, leaving trans-3-o-aminostyryl-1,2,4-oxadiazole (7.5 g., 80%), m.p. 108°- 109°, λmax. 240, 280- 281, 350 nm, ε 14000, 12800, 6200 [Found (after sublimation): C, 64.2; H, 5.2; N, 22.1 C10H9N3O requires C, 64.2; H, 4.85; N, 22.45%].

reactant | 3-o-nitrostyryl-1,2,4-oxadiazole | 10.85 g | [N+](=O)([O-])C1=C(C=CC2=NOC=N2)C=CC=C1 | C10H7N3O3
solvent | acetone | 1 litre | CC(=O)C | C3H6O
catalyst | Titanous chloride | 380 ml | [Cl-].[Cl-].[Ti+2]
product | trans-3-o-aminostyryl-1,2,4-oxadiazole | 7.5 g, 80% | NC1=C(/C=C/C2=NOC=N2)C=CC=C1 | C10H9N3O
